US04639267
A mixture of 5-(6,8-dimethyl-7-methoxy-1-oxo-1,2,3,4-tetrahydronaphth-5-yl)-3-hydroxycyclohex-2-en-1-one (1.0 g) and propionic anhydride (2 ml) was stirred and heated at reflux in toluene (80 ml) for 1 hr. The solvent was evaporated and the residue was heated under high vacuum to remove excess anhydride. The residue was then heated at reflux with dimethylaminopyridine (0.2 g) in toluene (80 ml) for 8 hr. The solvent was evaporated and the residue was purified by column chromatography over silica with dichloromethane/ethyl acetate (9:1 v/v) elution to give 5-(6,8-dimethyl-7-methoxy-1-oxo-1,2,3,4-tetrahydronaphth5-yl)-3-hydroxy-2-propionylcyclohex-2-en-1-one as a pale yellow oil. Pmr spectrum (CDCl3 ; δ in ppm): 1.17 (3H,t); 1.7-3.7 (13H,m); 2.41 (3H,s); 2.52 (3H,s); 3.66 (3H,s); 18.28 (1H,s).

reactant | 5-(6,8-dimethyl-7-methoxy-1-oxo-1,2,3,4-tetrahydronaphth-5-yl)-3-hydroxycyclohex-2-en-1-one | 1.0 g | CC=1C(=C2CCCC(C2=C(C1OC)C)=O)C1CC(=CC(C1)=O)O | C19H22O4
reactant | propionic anhydride | 2 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(6,8-dimethyl-7-methoxy-1-oxo-1,2,3,4-tetrahydronaphth5-yl)-3-hydroxy-2-propionylcyclohex-2-en-1-one | CC=1C(=C2CCCC(C2=C(C1OC)C)=O)C1CC(=C(C(C1)=O)C(CC)=O)O | C22H26O5
